US08445684B2
3-[4-[2-(Benzyloxy)ethyl]phenyl]-5-[[1-(tert-butoxycarbonyl)-2(S)-azetidinyl]methoxy]pyridine
A solution/suspension of 3-[[1-(tert-butoxycarbonyl)-2(S)-azetidinyl]methoxy]-5-(trimethylstannyl)pyridine (427 mg, 1.00 mmol), 1-[2-(benzyloxy)ethyl]-4-iodobenzene (338 mg, 1.00 mmol), CsF (304 mg, 2.00 mmol), Pd(PPh3)4 (58 mg, 0.05 mmol) and CuI (19 mg, 0.10 mmol) in anhydrous DMF (5 mL) was stirred at 50° C. for 5 h under N2. The reaction mixture was cooled and concentrated under vacuum. The residue was applied onto a silica gel column, and the product was eluted with EtOAc/petroleum ether/Et3N 3:6:0.5 as the eluent to give the title compound (280 mg, 59%) as light-yellow oil. 1H NMR (CDCl3, 300 MHz) δ 8.48 (s, 1H), 8.33 (d, J=2.1 Hz, 1H), 7.55 (d, J=8.1 Hz, 2H), 7.48 (s, 1H), 7.37-7.29 (m, 7H), 4.57 (s, 3H), 4.42 (s, 1H), 4.24 (dd, J=7.2, 3.0 Hz, 1H), 3.93 (t, J=7.2 Hz, 2H), 3.75 (t, J=7.2 Hz, 2H), 3.00 (t, J=7.2 Hz, 2H), 2.43-2.30 (m, 2H), 1.42 (s, 9H). LC-MS (ESI) m/z 475 (M+H+).

reactant | 3-[[1-(tert-butoxycarbonyl)-2(S)-azetidinyl]methoxy]-5-(trimethylstannyl)pyridine | 1.00 mmol, 427 mg | C(C)(C)(C)OC(=O)N1[C@@H](CC1)COC=1C=NC=C(C1)[Sn](C)(C)C
reactant | 1-[2-(benzyloxy)ethyl]-4-iodobenzene | 1.00 mmol, 338 mg | C(C1=CC=CC=C1)OCCC1=CC=C(C=C1)I | C15H15IO
reactant | CsF | 2.00 mmol, 304 mg | [F-].[Cs+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.05 mmol, 58 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 0.10 mmol, 19 mg | [Cu]I
product | 3-[4-[2-(Benzyloxy)ethyl]phenyl]-5-[[1-(tert-butoxycarbonyl)-2(S)-azetidinyl]methoxy]pyridine | 280 mg, 59% | C(C1=CC=CC=C1)OCCC1=CC=C(C=C1)C=1C=NC=C(C1)OC[C@H]1N(CC1)C(=O)OC(C)(C)C | C29H34N2O4
